US07582626B2
a) (1,1-Dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid
Methyl 3-chloro-3-oxopropionate (3.36 mL, 31.3 mmol) was added to a solution of 2-aminobenzenesulfonamide (4.91 g, 28.5 mmol) in a 1:1 mixture of N,N-dimethylacetamide and diethylether (100 mL) at 0° C. The cloudy reaction mixture was stirred at 0° C. for 3 h, and then was partitioned between half-saturated aqueous sodium bicarbonate (150 mL) and ethyl acetate (2×150 mL). The organic layers were dried over sodium sulfate, filtered and were concentrated in vacuo. The residue was then dissolved in water (75 mL) containing sodium hydroxide (3.42 g, 85.5 mmol) at 25° C. The mixture was heated at 100° C. for 1 h, and then was cooled to 0° C. Concentrated (12.0 M) aqueous hydrochloric acid solution (10.0 mL, 120 mmol) was added dropwise via addition funnel over 10 min, resulting in the formation of a white precipitate. The reaction mixture was stirred at 0° C. for an additional 15 min, and then was filtered through a medium frit. The collected material was washed with water (30 mL) and was air-dried overnight to afford the desired product, (1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid (6.37 g, 26.6 mmol, 93%), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 3.58 (2H, s), 7.30 (1H, d, J=7.4 Hz), 7.44 (1H, t, J=8.2 Hz), 7.64-7.68 (1H, m), 7.79 (1H, dd, J1=1.5 Hz, J2=7.8 Hz), 12.19 (1H, s).

reactant | Methyl 3-chloro-3-oxopropionate | 31.3 mmol, 3.36 mL | ClC(CC(=O)OC)=O | C4H5ClO3
reactant | 2-aminobenzenesulfonamide | 28.5 mmol, 4.91 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | sodium hydroxide | 85.5 mmol, 3.42 g | [OH-].[Na+]
reactant | hydrochloric acid | 120 mmol, 12.0 M, 10.0 mL | Cl | ClH
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | (1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid | 26.6 mmol, 6.37 g, 93% | O=S1(N=C(NC2=C1C=CC=C2)CC(=O)O)=O | C9H8N2O4S
